US06248739B1
N-(4-Chlorobenzyl-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxamide
A solution of N-(4-chlorobenzyl)-4-hydroxy-6-(hydroxymethyl)-3-quinolinecarboxamide (1.71 gm) from Preparation No. 9 in DMF (50 mL) at 0° C. under a drying tube is treated with 4-dimethylaminopyridine (0.12 gm), 2,4,6-collidine (1.05 mL) and methanesulfonylchloride (0.60 mL). The mixture is allowed to slowly warm to room temperature overnight. The reaction mixture is then treated with morpholine (8.0 mL) and stirred for 4 hrs. The reaction mixture is poured into water (250 mL) and extracted with dichloromethane (5×50 mL). The combined organic layers are washed with water, brine, dried (Na2SO4) and concentrated under reduced pressure. The crude product is purified by recrystallization from methanol-acetonitrile (1/1, 150 mL) to afford 1.7 gm of the title compound as a white solid.

reactant | N-(4-chlorobenzyl)-4-hydroxy-6-(hydroxymethyl)-3-quinolinecarboxamide | 1.71 gm | ClC1=CC=C(CNC(=O)C=2C=NC3=CC=C(C=C3C2O)CO)C=C1 | C18H15ClN2O3
reactant | 2,4,6-collidine | 1.05 mL | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | methanesulfonylchloride | 0.60 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | morpholine | 8.0 mL | N1CCOCC1 | C4H9NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
catalyst | 4-dimethylaminopyridine | 0.12 gm | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | 250 mL | O | H2O
product | 4-Chlorobenzyl-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxamide | 1.7 gm | ClC1=CC=C(CC2=NC3=CC=C(C=C3C(=C2C(=O)N)O)CN2CCOCC2)C=C1 | C22H22ClN3O3
